US08981104B2
rac-Ethyl 5-{(2-cyano-5,6,7,8-tetrahydroquinolin-5-yl)[2-(2-methoxyphenyl)ethyl]amino}-pentanoate
17.07 ml (0.11 mol) of ethyl 5-bromopentanoate, 8.43 g (0.05 mol) of potassium iodide and 22.61 g (0.21 mol) of anhydrous sodium carbonate were added to a solution of 31.22 g (0.10 mol) of 5-{[2-(2-methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile in 300 ml of dry acetonitrile, and the mixture was heated under reflux for 4 days. The reaction was then concentrated to a volume of about 50 ml on a rotary evaporator. The solution obtained was taken up in 250 ml of ethyl acetate and 400 ml of saturated aqueous sodium chloride solution, and the organic phase was then removed. The aqueous phase was extracted twice with in each case 150 ml of ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated to dryness. The residue obtained was applied to 25 g of silica gel and purified by column chromatography on silica gel (80 g cartridge; flow rate: 60 ml/min; mobile phase: petroleum ether/ethyl acetate 95:5→80:20 over 30 min). This gave 28.89 g (0.05 mol, content 80%, 52% of theory) of the target compound as an orange oil.

reactant | ethyl 5-bromopentanoate | 0.11 mol, 17.07 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium iodide | 0.05 mol, 8.43 g | [I-].[K+]
reactant | sodium carbonate | 0.21 mol, 22.61 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-{[2-(2-methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile | 0.10 mol, 31.22 g | COC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C#N | C19H21N3O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | rac-Ethyl 5-{(2-cyano-5,6,7,8-tetrahydroquinolin-5-yl)[2-(2-methoxyphenyl)ethyl]amino}-pentanoate | C(#N)C1=NC=2CCCC(C2C=C1)N(CCCCC(=O)OCC)CCC1=C(C=CC=C1)OC | C26H33N3O3
